US09216973B2
To a solution of 4-bromo-3-methyl-benzonitrile (commercially available) (15 g) in diethyl ether (150 ml) under an argon atmosphere was added a solution of lithium aluminum hydride in diethyl ether (1M) (150 ml) at ambient temperature. The reaction mixture was stirred at 40° C. for 2 hours. Then the reaction mixture was cooled to 0° C. and quenched by successive addition of water (10.5 ml), aqueous sodium hydroxide (20% w/v) (7.5 ml) and water (37.5 ml). The phases were separated. The organic phase was filtered through a plug of silica gel and the filtrate concentrated to give 4-bromo-3-methyl-benzylamine (15.11 g) as a yellow oil. 1H-NMR (400 MHz, CDCl3): 7.47 (d, 1H), 7.19 (s, 1H), 6.98 (d, 1H), 3.80 (s, 2H), 2.39 (s, 3H) ppm.

reactant | 4-bromo-3-methyl-benzonitrile | BrC1=C(C=C(C#N)C=C1)C | C8H6BrN
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 1M, 150 ml | C(C)OCC | C4H10O
product | 4-bromo-3-methyl-benzylamine | 15.11 g | BrC1=C(C=C(CN)C=C1)C | C8H10BrN
